US05629406
15.3 ml (0.1 mol) of a 40% w/v aqueous solution of pyruvic aldehyde were added to a suspension of 15.3 g (0.1 mol) of 4-nitro-1,2-phenylenediamine in 800 ml of a 1:1 by volume mixture of isopropanol and water, and the resulting mixture was heated under reflux for 3 hours. At the end of this time, the mixture was cooled, and the crystals which had precipitated were collected by filtration and recrystallized from ethanol. The filtrate was concentrated by distillation under reduced pressure, and the concentrate was triturated with ethanol to cause crystallization. A total of 15.5 g of 2-methyl-6-nitroquinoxaline were obtained as crude yellow-brown crystals. 12.5 g (0.066 mol) of this crude 2-methyl-6-nitroquinoxaline were suspended in 200 ml of toluene, and 13.2 g of selenium dioxide were added to the suspension. The resulting mixture was then heated under reflux for 4 hours. It was then cooled, after which insoluble materials were filtered off and the filtrate was freed from the solvent by distillation under reduced pressure. The residue was mixed with 400 ml of acetone. 420 ml (0.13 mol) of a 5% aqueous solution of potassium permanganate were then slowly added at room temperature and with stirring to the resulting mixture, which was then stirred at room temperature for 2.5 hours. At the end of this time, insoluble materials were filtered off and the filtrate was freed from acetone by distillation under reduced pressure. The aqueous layer thus obtained was washed with diethyl ether and then acidified with concentrated hydrochloric acid to precipitate crystals. These crystals were dissolved in a 1N aqueous solution of sodium hydroxide, and insoluble materials were filtered off. The filtrate was again acidified with concentrated hydrochloric acid to precipitate crystals, which were recrystallized from a mixture of acetone and diethyl ether, to give 9.9 g of the title compound as pale yellow-brown crystals, melting at 208°-210° C.

reactant | pyruvic aldehyde | CC(=O)C=O | C3H4O2
reactant | 4-nitro-1,2-phenylenediamine | 0.1 mol, 15.3 g | [N+](=O)([O-])C1=CC(=C(C=C1)N)N | C6H7N3O2
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | 2-methyl-6-nitroquinoxaline | 15.5 g | CC1=NC2=CC=C(C=C2N=C1)[N+](=O)[O-] | C9H7N3O2
